US07482354B2
8-anilino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid [B04-X00-M00(C01)-D02]
0.63 g (1.80 mmol) of ethyl 8-anilino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate were dissolved in 100 mL of a mixture tetrahydrofuran/methanol/water 8/1/1 and 0.19 g (4,53 mmol) of lithium hydroxide hydrate were added. The solution was stirred at 60° C. for 1.5 hours. The mixture was then cooled to room temperature and 1 N HCl added until neutral pH. Water was added and the resulting precipitate collected by filtration (87% yield).

reactant | ethyl 8-anilino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylate | 1.80 mmol, 0.63 g | N(C1=CC=CC=C1)C1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)OCC | C19H19N5O2
reactant | lithium hydroxide hydrate | 4,53 mmol, 0.19 g | O.[OH-].[Li+]
reactant | HCl | 1 N | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran methanol water | O1CCCC1.CO.O
product | 8-anilino-1-methyl-4,5-dihydro-1H-pyrazolo[4,3-h]quinazoline-3-carboxylic acid | 87% yield | N(C1=CC=CC=C1)C1=NC=2C3=C(CCC2C=N1)C(=NN3C)C(=O)O | C17H15N5O2
